US06071935
E. 4-{[5-Oxo-4,4-bis-pyridin-4-ylmethyl-1-(2,6,6-trimethyl-bicyclo[3.1.1]hept-3-ylmethyl)-imidazolidin-2-ylidene]-acetyl}-benzonitrile
5,5-Bis-pyridin-4-ylmethyl-2-thioxo-3-(2,6,6-trimethyl-bicyclo[3.1.1]hept-3-ylmethyl)-imidazolidin-4-one (101 mg, 0.225 mmol) was dissolved in anhydrous THF (3.0 ml) under an atmosphere of dry N2. The reaction was then cooled to 0° C. and potassium bis(trimethylsilyl)amide (46.8 mg, 0.235 mmol) was added. After stirring for 15 minutes, 4-cyanophenacyl bromide (51.5 mg, 0.230 mmol) was added to the reaction and the reaction was subsequently stirred for 20 minutes. The mixture was subsequently partitioned between CH2Cl2 and saturated sodium bicarbonate (NaHCO3) solution. The CH2Cl2 layer was dried over Na2SO4, filtered, and concentrated under vacuum to give a yellow oil. The oil was chromatographed on silica gel using 50% ethyl acetate in hexanes to remove unreacted 4-cyanophenacyl bromide and then eluted with 2% methanol in ethyl acetate to give 112 mg (0.189 mmol) of the titled compound as a yellow foam.

reactant | 5,5-Bis-pyridin-4-ylmethyl-2-thioxo-3-(2,6,6-trimethyl-bicyclo[3.1.1]hept-3-ylmethyl)-imidazolidin-4-one | 0.225 mmol, 101 mg | N1=CC=C(C=C1)CC1(C(N(C(N1)=S)CC1C(C2C(C(C1)C2)(C)C)C)=O)CC2=CC=NC=C2 | C26H32N4OS
reactant | potassium bis(trimethylsilyl)amide | 0.235 mmol, 46.8 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-cyanophenacyl bromide | 0.230 mmol, 51.5 mg | C(#N)C1=CC=C(C(CBr)=O)C=C1 | C9H6BrNO
solvent | THF | 3.0 ml | C1CCOC1 | C4H8O
product | 4-{[5-Oxo-4,4-bis-pyridin-4-ylmethyl-1-(2,6,6-trimethyl-bicyclo[3.1.1]hept-3-ylmethyl)-imidazolidin-2-ylidene]-acetyl}-benzonitrile | 0.189 mmol, 112 mg | O=C1C(NC(N1CC1C(C2C(C(C1)C2)(C)C)C)=CC(=O)C2=CC=C(C#N)C=C2)(CC2=CC=NC=C2)CC2=CC=NC=C2 | C35H37N5O2
